US08685958B2
(3-(4-(2-oxa-7-azaspiro[4.4]nonan-7-ylmethyl)phenoxy)azetidin-1-yl)(5-(4-methoxyphenyl)-1,3,4-oxadiazol-2-yl)methanone
2-Oxa-7-azaspiro[4.4]nonane HCl salt (0.057 g, 0.35 mmol) was dissolved in dichloromethane (2 ml). To the resulting solution was added triethylamine (0.052 ml, 0.38 mmol), followed by 4-(1-(5-(4-methoxyphenyl)-1,3,4-oxadiazole-2-carbonyl)azetidin-3-yloxy)benzaldehyde (0.11 g, 0.29 mmol) and sodium triacetoxyhydroborate (0.123 g, 0.58 mmol). The mixture was stirred at ambient temperature overnight. The reaction mixture was then diluted with dichloromethane (10 ml) and shaken with NaHCO3 (sat. 2 ml). The two phases were separated using a phase separator. The organic phase was evaporated. The product was purified by preparative reverse-phase HPLC at pH 10 to give 0.066 g (46%) of the desired product as a solid. 1H NMR (400 MHz, CDCl3) δ 1.92 (ddd 4H), 2.42 (d, 1H), 2.62 (dd, 3H), 3.58 (d, 3H), 3.71 (d, 1H), 3.84 (ddd, 2H), 3.92 (s, 3H), 4.35 (d, 1H), 4.67 (dd, 1H), 4.77 (d, 1H), 5.04-5.19 (m, 2H), 6.75 (d, 2H), 7.05 (d, 2H), 7.29 (d, 2H), 8.12 (d, 2H). MS (APCI+) m/z 491.3 [M+H]+, LC purity: 97%

reactant | 2-Oxa-7-azaspiro[4.4]nonane HCl salt | 0.35 mmol, 0.057 g | Cl.C1OCCC12CNCC2
reactant | triethylamine | 0.38 mmol, 0.052 ml | C(C)N(CC)CC | C6H15N
reactant | 4-(1-(5-(4-methoxyphenyl)-1,3,4-oxadiazole-2-carbonyl)azetidin-3-yloxy)benzaldehyde | 0.29 mmol, 0.11 g | COC1=CC=C(C=C1)C1=NN=C(O1)C(=O)N1CC(C1)OC1=CC=C(C=O)C=C1 | C20H17N3O5
reactant | sodium | [Na] | Na
reactant | NaHCO3 | 2 ml | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (3-(4-(2-oxa-7-azaspiro[4.4]nonan-7-ylmethyl)phenoxy)azetidin-1-yl)(5-(4-methoxyphenyl)-1,3,4-oxadiazol-2-yl)methanone | 0.066 g, 46% | C1OCCC12CN(CC2)CC2=CC=C(OC1CN(C1)C(=O)C=1OC(=NN1)C1=CC=C(C=C1)OC)C=C2 | C27H30N4O5
